US04036965
To the stirred suspension of 1.73 g of sodium hydride in 30 ml of dimethylformamide the solution of 12.7 g of m-chlorobenzylmercaptan is added during 2 minutes and stirring is continued for 15 minutes. Thereupon the solution of 12.25 g of 5-nitro-pyridine-2-carboxylic acid methyl ester in 75 ml of dimethylformamide is added all at once. The mixture is stirred for 1 hour on the steam bath and allowed to stand at room temperature overnight. It is poured onto ice and acetic acid, the suspension obtained filtered and the residue recrystallized from 95% aqueous ethanol, to yield the 5-(m-chlorobenzylmercapto)-2-pyridinecarboxylic acid methyl ester melting at 75°-77°.

reactant | sodium hydride | 1.73 g | [H-].[Na+]
reactant | m-chlorobenzylmercaptan | 12.7 g | ClC=1C=C(CS)C=CC1 | C7H7ClS
reactant | 5-nitro-pyridine-2-carboxylic acid methyl ester | 12.25 g | COC(=O)C1=NC=C(C=C1)[N+](=O)[O-] | C7H6N2O4
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 75 ml | CN(C=O)C | C3H7NO
product | 5-(m-chlorobenzylmercapto)-2-pyridinecarboxylic acid methyl ester | COC(=O)C1=NC=C(C=C1)SCC1=CC(=CC=C1)Cl | C14H12ClNO2S
